US04224242
A solution of 16.7 g. of 2-methyl-5-chlorophenylisocyanate and 50 ml. of dichloromethane was added to a stirred, cooled solution of 35 g. of N-isopropyl-1,3-diaminopropane and 250 ml. of dichloromethane. The temperature was kept at -5° to 0° C. during addition. Stirring was continued at room temperature for 20 minutes. The precipitated solid was separated by filtration. The filtrate was extracted with water, then with 200 ml. of 15% hydrochloric acid (v/v). The acid extract was made basic with saturated sodium carbonate solution, then extracted with dichloromethane. The dichloromethane solution was dried over magnesium sulfate, then evaporated to dryness. The residue was dissolved in ethanol and saturated with hydrogen chloride. The solution was evaporated to dryness in vacuo. The residue was triturated with ether until it solidified. The solid was recrystallized from EtOH/Et2O to obtain N-[3-(isopropylamino)propyl]-N'-(5-chloro-2-methylphenyl)urea hydrochloride, m.p. 180°-183° C.

reactant | 2-methyl-5-chlorophenylisocyanate | CC1=C(C=C(C=C1)Cl)N=C=O | C8H6ClNO
reactant | N-isopropyl-1,3-diaminopropane | C(C)(C)NCCCN | C6H16N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[3-(isopropylamino)propyl]-N'-(5-chloro-2-methylphenyl)urea hydrochloride | Cl.C(C)(C)NCCCNC(=O)NC1=C(C=CC(=C1)Cl)C | InChI=1S/C14H22ClN3O.ClH/c1-10(2)16-7-4-8-17-14(19)18-13-9-12(15)6-5-11(13)3;/h5-6,9-10,16H,4,7-8H2,1-3H3,(H2,17,18,19);1H
